US04054589
By the procedure of Example 1, 2,4-dimethoxy-3,6-dimethyl-benzyltriphenyl-phosphonium chloride is reacted with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester to obtain 9-(2,4-dimethoxy-3,6-dimethylphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester.

reactant | 2,4-dimethoxy-3,6-dimethyl-benzyltriphenyl-phosphonium chloride | [Cl-].COC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC(=C1C)OC)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
product | 9-(2,4-dimethoxy-3,6-dimethylphenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)OC)C)C)=O | C23H30O4
